US06911468B2
(4) 3-(4-Butylphenyl)propyl methanesulfonate
To a solution of 3-(4-butylphenyl)propanol (2.86 g, 14.9 mmol) and triethylamine (1.51 g, 14.9 mmol) in ethyl acetate (30 ml) was added methanesulfonyl chloride (1.70 g, 14.9 mmol) and the mixture was stirred at room temperature for 2 hours. The reaction solution was washed with water and saturated brine, dried over magnesium sulfate anhydride and concentrated under reduced pressure to give the object compound as an oily substance. 4.02 g (yield: 100%)

reactant | 3-(4-butylphenyl)propanol | 14.9 mmol, 2.86 g | C(CCC)C1=CC=C(C=C1)CCCO | C13H20O
reactant | triethylamine | 14.9 mmol, 1.51 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14.9 mmol, 1.70 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-Butylphenyl)propyl methanesulfonate | yield: 100% | CS(=O)(=O)OCCCC1=CC=C(C=C1)CCCC | C14H22O3S
